US06780996B2
A mixture of sodium (50 mg, 2.2 mmol) in 1 mL of 2-[2-(1-piperazinyl)ethoxy]ethanol is heated at 120° C. for 2 hours. 4-[(2,4-Dichloro-5-methoxyphenyl)amino]-7-fluoro-6-methoxy-3-quinolinecarbonitrile (150 mg, 0.38 mmol) is added and the reaction mixture is heated at 140-145° C. for 2 hours, then cooled to room temperature. The reaction mixture is partitioned between saturated sodium bicarbonate and ethyl acetate. The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is purified by flash column chromatography eluting with a gradient of 3% methanol in dichloromethane to 1% ammonium hydroxide and 30% methanol in dichloromethane followed by recrystallization from acetone and hexane to provide 124 mg of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-7-{2-[2-(1-piperazinyl)-ethoxy]ethoxy)-3-quinolinecarbonitrile, mp 88-90° C.

reactant | sodium | 2.2 mmol, 50 mg | [Na] | Na
reactant | 4-[(2,4-Dichloro-5-methoxyphenyl)amino]-7-fluoro-6-methoxy-3-quinolinecarbonitrile | 0.38 mmol, 150 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OC)F)C#N | C18H12Cl2FN3O2
reactant | 2-[2-(1-piperazinyl)ethoxy]ethanol | 1 mL | N1(CCNCC1)CCOCCO | C8H18N2O2
product | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-7-{2-[2-(1-piperazinyl)-ethoxy]ethoxy)-3-quinolinecarbonitrile | 124 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OC)OCCOCCN1CCNCC1)C#N | C26H29Cl2N5O4
